US07087579B2
To a suspension of 3-(β-D-glucopyranosyloxy)-4-[(4-isopropoxyphenyl)methyl]-5-methyl-1H-pyrazole (0.050 g) and cesium carbonate (0.20 g) in N,N-dimethylformamide (1 mL) was added cyclopentyl bromide (0.055 g) at 80° C., and the mixture was stirred for 30 minutes. After cooling to room temperature, water was added to the reaction mixture, and the mixture was purified by solid phase extraction on ODS (washing solvent: distilled water, eluent: methanol), and successively by column chromatography on silica gel (eluent: dichloromethane/methanol=8/1) to give 1-cyclopentyl-3-(β-D-glucopyranosyloxy)-4-[(4-isopropoxyphenyl)methyl]-5-methyl-1H-pyrazole (0.034 g).

reactant | 3-(β-D-glucopyranosyloxy)-4-[(4-isopropoxyphenyl)methyl]-5-methyl-1H-pyrazole | 0.050 g | [C@@H]1([C@H](O)[C@@H](O)[C@H](O)[C@H](O1)CO)OC1=NNC(=C1CC1=CC=C(C=C1)OC(C)C)C | C20H28N2O7
reactant | cesium carbonate | 0.20 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | cyclopentyl bromide | 0.055 g | C1(CCCC1)Br | C5H9Br
reactant | water | O | H2O
solvent | N,N-dimethylformamide | 1 mL | CN(C=O)C | C3H7NO
product | 1-cyclopentyl-3-(β-D-glucopyranosyloxy)-4-[(4-isopropoxyphenyl)methyl]-5-methyl-1H-pyrazole | 0.034 g | C1(CCCC1)N1N=C(C(=C1C)CC1=CC=C(C=C1)OC(C)C)O[C@H]1[C@H](O)[C@@H](O)[C@H](O)[C@H](O1)CO | C25H36N2O7
